US09079860B2
Ethyl bromoacetate (1.70 g, 10.2 mmol), tris-(1-naphthylene)phosphine (379 mg, 0.93 mmol) and tribasic potassium phosphate (10.8 g, 51 mmol) were placed in a flask. The flask was evacuated and back-filled with argon. A solution of 4-acetylphenylboronic acid (2.0 g, 12.2 mmol) in anhyd THF (40 mL) was added to the flask. The reaction was stirred at rt for 16 h. The reaction was diluted with EtOAc, washed with water and brine, dried over MgSO4, filtered and evaporated to dryness. The residue was pre-adsorbed on to SiO2 and the product isolated via SiO2 chromatography to yield 616 mg (29%) of ethyl 4-acetyl-phenylacetate. MS 207.1 (M+H)+.

reactant | Ethyl bromoacetate | 10.2 mmol, 1.70 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium phosphate | 51 mmol, 10.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-acetylphenylboronic acid | 12.2 mmol, 2.0 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-acetyl-phenylacetate | 616 mg, 29% | C(C)(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H14O3
